US09302996B2
A mixture in which methylene chloride (8 mL) and a saturated brine (8 mL) were added to methyl 3-{[5-(4-carbamimidoyl-3-fluorophenyl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate acetic acid salt (400 mg), 2-bromo-1-[1-(trifluoromethyl)-cyclopropyl]ethanone (289 mg) and potassium carbonate (404 mg) was stirred at 50° C. for 8 hours. The organic layer was separated, and concentrated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (2.0 mL) and methanol (2.0 mL), and after adding 2N aqueous sodium hydroxide solution (3.0 mL) to the solution, the resulting mixture was stirred at 50° C. for 3 hours. The mixture was diluted by ethyl acetate, and then, neutralized by adding 1N hydrochloric acid. The organic layer was separated, ether was added to the residue obtained by concentrating the mixture under reduced pressure and the resulting mixture was stirred. The precipitated solid was collected by filtration and dried to obtain 3-{[5-(3-fluoro-4-{5-[1-(trifluoromethyl)cyclopropyl]-1H-imidazol-2-yl]phenyl)-4-methylpyridin-2-yl}oxy}-2,2-dimethylpropanoic acid (339 mg).

reactant | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
reactant | methyl 3-{[5-(4-carbamimidoyl-3-fluorophenyl)-4-methylpyridin-2-yl]oxy}-2,2-dimethylpropanoate acetic acid salt | 400 mg | C(C)(=O)O.C(N)(=N)C1=C(C=C(C=C1)C=1C(=CC(=NC1)OCC(C(=O)OC)(C)C)C)F
reactant | 2-bromo-1-[1-(trifluoromethyl)-cyclopropyl]ethanone | 289 mg | BrCC(=O)C1(CC1)C(F)(F)F | C6H6BrF3O
reactant | potassium carbonate | 404 mg | C([O-])([O-])=O.[K+].[K+]
solvent | brine | 8 mL | [Cl-].[Na+].O
product | 3-{[5-(3-fluoro-4-{5-[1-(trifluoromethyl)cyclopropyl]-1H-imidazol-2-yl]phenyl)-4-methylpyridin-2-yl}oxy}-2,2-dimethylpropanoic acid | 339 mg | FC=1C=C(C=CC1C=1NC(=CN1)C1(CC1)C(F)(F)F)C=1C(=CC(=NC1)OCC(C(=O)O)(C)C)C | C24H23F4N3O3
